US06627651B1
Into a solution of methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (500 mg), 3-pyridinemethanol (405 mg) and triphenylphosphine (0.98 g) in THF (10 ml) was added at 0° C. diethyl azodicarboxylate (a 40% solution in toluene) (1.62 g), and the resulting mixture was stirred at room temperature for 20 hours. After concentration under reduced pressure, the residue was subjected to separation and purification using column chromatography (ethyl acetate) to obtain methyl 7-(3-pyridylmethoxy)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (694 mg) as colorless crystals.

reactant | methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 500 mg | OC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H12O5S
reactant | 3-pyridinemethanol | 405 mg | N1=CC(=CC=C1)CO | C6H7NO
reactant | triphenylphosphine | 0.98 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 7-(3-pyridylmethoxy)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 694 mg | N1=CC(=CC=C1)COC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C18H17NO5S
